US09283229B2
A mixture of thiophene-2-carboxylic acid (2 g, 15.6 mmol), N,O-dimethylhydroxylamine hydrochloride (1.5 g, 15.6 mmol), EDCI (3.1 g, 15.6 mmol), HOBT (2.4 g, 15.6 mmol), Et3N (6.5 mL, 46.8 mmol) in DCM (30 mL) was stirred at room temperature for 4 hours. The mixture was concentrated in vacuo and purified by column to give N-methoxy-N-methylthiophene-2-carboxamide (1.8 g, yield 67%) as an oil.

reactant | thiophene-2-carboxylic acid | 15.6 mmol, 2 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.6 mmol, 1.5 g | Cl.CNOC
reactant | EDCI | 15.6 mmol, 3.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 15.6 mmol, 2.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 46.8 mmol, 6.5 mL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methylthiophene-2-carboxamide | 1.8 g, yield 67% | CON(C(=O)C=1SC=CC1)C | C7H9NO2S
